US09447029B2
Tert-butyllithium (1268 uL; 2.16 mmol) is added dropwise to a solution of 2-(3-butoxyphenyl)acetonitrile (371 mg; 1.96 mmol) in THF (16 mL) at −78° C., under nitrogen atmosphere. The light yellow solution turned into orange and stirring is continued for 1 hour. A solution of N-fluorobenzenesulfonimide (618 mg; 1.96 mmol) in THF (2 mL) is added dropwise and the reaction is stirred at −78° C. for 2 hours. TLC (petroleum ether/EtAc 9:1) reveals no presence of starting material and two more apolar spots. The reaction is then quenched by adding 0.01N HCl, then more water is added and extracted with DCM (three times). The combined organic layers are dried over Na2SO4, filtered and evaporated. The crude residue is purified by flash chromatography (petroleum ether/EtAc, 99/1) affording 217 mg (53%) of 2-(3-butoxyphenyl)-2-fluoroacetonitrile as a colorless oil.

reactant | Tert-butyllithium | 2.16 mmol, 1268 uL | C(C)(C)(C)[Li]
reactant | 2-(3-butoxyphenyl)acetonitrile | 1.96 mmol, 371 mg | C(CCC)OC=1C=C(C=CC1)CC#N | C12H15NO
reactant | N-fluorobenzenesulfonimide | 1.96 mmol, 618 mg | C1=CC=C(C=C1)S(=O)(=O)N(F)S(=O)(=O)C2=CC=CC=C2 | C12H10FNO4S2
solvent | THF | 16 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 2-(3-butoxyphenyl)-2-fluoroacetonitrile | 217 mg, 53% | C(CCC)OC=1C=C(C=CC1)C(C#N)F | C12H14FNO
